US07615568B2
H. 3-[4-(Methylthiomethyl)-2-(1-t-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide
Using a procedure analogous to Example 1-G, 3-[4-(methylthiomethyl)-2-(1-t-butoxycarbonylpiperidin-4-yloxy)-benzoic acid and 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide gave the title compound as a white solid (751 mg, 43%).

reactant | 4-(methylthiomethyl)-2-(1-t-butoxycarbonylpiperidin-4-yloxy)-benzoic acid | CSCC1=CC(=C(C(=O)O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H27NO5S
reactant | 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
product | 3-[4-(Methylthiomethyl)-2-(1-t-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 751 mg, 43% | CSCC1=CC(=C(C(=O)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C30H34ClN5O5S
